US09029409B2
To a stirred suspension of 6-chloronicotinaldehyde (1.5 g, 10.59 mmol, Organic Letters 2005, 7(14) 2965-2967) and potassium carbonate (1.46 g, 10.5 mmol) in MeOH (50 mL) was added toluenesulphonylmethyl isocyanide (2.06 g, 10.59 mmol, Aldrich). The reaction mixture was heated to reflux for about 4 h. The reaction mixture diluted with water (50 mL) and the product was extracted with EtOAc (2×150 mL). The combined organic layers were washed successively with water (2×50 mL) and brine (1×50 mL), dried over sodium sulphate and evaporated to dryness. The crude material was purified by silica gel column chromatography eluted with 15% EtOAC in hexane. Relevant fractions containing the required compound were combined and evaporated to dryness under reduced pressure to afford 5-(6-chloropyridin-3-yl)oxazole as an off white solid 1.2 g (42.8. %), 1H NMR (400 MHz, CDCl3): δ 8.7 (d, J=2.0 Hz, 1H), 7.98 (s, 1H), 7.91 (d, J=2.4 Hz, 1H), 7.45 (s, 1H), 7.42 (d, J=8.4 Hz, 1H), MS m/z: 181 (M+H)+.

reactant | 6-chloronicotinaldehyde | 10.59 mmol, 1.5 g | ClC1=NC=C(C=O)C=C1 | C6H4ClNO
reactant | potassium carbonate | 10.5 mmol, 1.46 g | C([O-])([O-])=O.[K+].[K+]
reactant | toluenesulphonylmethyl isocyanide | 10.59 mmol, 2.06 g | C=1(C(=CC=CC1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
solvent | MeOH | 50 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
product | 5-(6-chloropyridin-3-yl)oxazole | ClC1=CC=C(C=N1)C1=CN=CO1 | C8H5ClN2O
